US04034040
1-(N,N-Dioctadecylcarbamyl)-4-Methylpiperazine
A mixture of 1-methylpiperazine (5 ml.), N,N-dioctadecylcarbamylchloride (5.0 g.) and benzene (50 ml.) is refluxed and stirred for three hours. The white precipitate of 1-methylpiperazine hydrochloride is removed by filtration and the filtrate concentrated in vacuo to a yellow oil (4.5 g.). The oil is then charged on a silica gel pad and eluted with benzene in 50 ml. fractions. Fractions 10-15 are combined, a large volume of methanol added and the white crystalline material which separates filtered and dried, m.p. 46°-47° C. (1.45 g.).

reactant | 1-methylpiperazine | 5 ml | CN1CCNCC1 | C5H12N2
reactant | N,N-dioctadecylcarbamylchloride | 5.0 g | C(CCCCCCCCCCCCCCCCC)N(C(=O)Cl)CCCCCCCCCCCCCCCCCC | C37H74ClNO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(N,N-Dioctadecylcarbamyl)-4-Methylpiperazine | C(CCCCCCCCCCCCCCCCC)N(C(=O)N1CCN(CC1)C)CCCCCCCCCCCCCCCCCC | C42H85N3O
